US07429609B2
Oxazole-2-ylmethyl-carbamic acid tert-butyl ester
To 4 mL of tetrahydrofuran was added 51.4 mg of sodium borohydride, and added with 240 mg of [oxazole-2-yl-(toluene-4-sulfonyl)-methyl]-carbamic acid tert-butyl ester obtained by Production example 769 over 13 minutes at room temperature under stirring. Thereafter, the solution was stirred for another 2 hours and 30 minutes under room temperature, added with saturated aqueous ammonium chloride under ice cooling, and stirred for another 30 minutes under ice cooling. Thereafter, water was added, extracted twice with diethyl ether and dried over anhydrous magnesium sulfate. The solvent was evaporated, followed by purification and separation by silica gel column chromatography, to afford 72.3 mg of the title compound as colorless crystals.

reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 51.4 mg | [BH4-].[Na+]
reactant | [oxazole-2-yl-(toluene-4-sulfonyl)-methyl]-carbamic acid tert-butyl ester | 240 mg | C(C)(C)(C)OC(NC(S(=O)(=O)C1=CC=C(C=C1)C)C=1OC=CN1)=O | C16H20N2O5S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
product | Oxazole-2-ylmethyl-carbamic acid tert-butyl ester | 72.3 mg | C(C)(C)(C)OC(NCC=1OC=CN1)=O | C9H14N2O3
